Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___
 
___ Complaint:
diarrhea/nausea/vomiting/palpitations
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ yo female w/ a hx of AML s/p alloSCT in 
___, in remission since, course c/b GVHD of skin, lung, and 
gut; CAD s/p 1v-CABG in ___, asthma (FEV1 40-45%), with recent 
exacerbation of lung GVHD, currently on Prednisone 20 mg PO QD 
with improvement in Sx, Afib on rivaroxiban and other issues 
presents to the ED with palpitations.

Last night she noted acute onset palpitations (HR in the 120s) 
around 1 am that woke her from sleep. She did not have chest 
pain or shortness of breath. She has since vomited 2x, once at 
home and once in the ED.  Her palpitations intermittently 
resolved but then worsened again. She denies recent 
fever/chills, cough/SOB, dysuria/hematuria, or preceding 
diarrhea. She does note having mutliple episodes of diarrhea. 
She reports adequate PO intake (eating more lately ___ 
steroids). 

In the ED, initial vital signs were:  96.3 85 124/56 18 96% RA 
she received Zofran with good relief for he nausea. 

Initially her HR was in the ___ and appeared to be sinus w/ 
frequent PACs; however, around 10:30a she was noted to be in 
Afib with RVR with rates in the 120s-130s, occasionally up to 
the 150s. SBP in the 100s (pt reports 110s normal for her), no 
chest pain or SOB. ECG 8:38a: Sinus arrhythmia, old Q waves 
inferolaterally, no new ST segment or T wave changes (TWIs in 
V1-V3 are old). ECG 10:28a: Afib w/ HR 150s, with ST depressions 
in V2-V4. CXR with no acute process. Cardiology was consulted 
and recommended rate control, increased metoprolol succinate 
from 25 mg PO QD to 50 mg PO QD, troponin was negative x2. 
While in the ED HR shot up to the 150s while having a bowel 
movement, then subsequently became bradycardic down to the ___ 
in sinus and became hypotensive to the ___ systolic. While 
patient was being assessed, her HR improved to the ___ and 
her BP recovered to the 120s. It was suspected this was a 
vasovagal episode (given bradycardia and hypotension) in the 
setting of a bowel movement. Non-con CT abd/pelvis was performed 
to rule out colitis given chronic steroid use and new diarrhea.

Exam was notable for NAD, irreg irreg, no abd tenderness, 
euvolemic.

Labs were notable for WBC 13, Cr of 1.4, TSH 4.9 troponins 
negative x2, UA - small bacteria and positivenitrites but no 
pyuria, given no Sx decision was made not to treat will not 
treat.

Patient was given 
___ 10:37 IV Metoprolol Tartrate 5 mg 
___ 10:37 IVF 1000 mL NS 1000 mL 
___ 11:20 PO Metoprolol Succinate XL 50 mg  
___ 12:07 IV Magnesium Sulfate 2 gm  
___ 18:24 IV Ondansetron 4 mg  

On Transfer Vitals were:  72 117/57 18 100% RA 

Since coming to the floor patient reports feeling fatigued, 
nauseous and having loose stools. Denies SOB, chest pain, 
palpitations and abdominal pain

Review of Systems: As per HPI
 
Past Medical History:
.
PAST ONCOLOGIC HISTORY:  
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (LIMA-LAD) ___  
- complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 

currently  
.  
OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (LIMA-LAD) 
___  
- Afib  
- Diverticulitis, hx of perforated diverticulum ___ ___ 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  
- Hospitalization for pneumonia ___ - ___            
                          
- ADRENAL INSUFFICIENCY                                          
 

.
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.1  118/52  76  18  98%RA
Wt 73.8  height 5'6
General: ill appearing, NAD
HEENT: dry mucus membranes, EOMI
CV: RRR no m/r/g
Lungs: CTA bilaterally no wheezes, rhonchi or rales
Abdomen: +BS, soft, NTTP, ND
Ext: WWP, no edema
Neuro: AOX3, strength and sensation grossly intact
Skin: warm no visible rashes

DISCHARGE PHYSICAL EXAM: 
Vitals: 97.8 80 108/64 20 96%RA 
I/O ___   
Tele: Sinus rhythm, no alarms  
General: patient appears more comfortable lying in bed, NAD  
HEENT: MMM, EOMI  
CV: RRR no m/r/g  
Lungs: CTA bilaterally no wheezes  
Abdomen: +BS, soft, no TTP, ND  
Ext: WWP, no edema  
Neuro: AOX3, strength and sensation grossly intact  
Skin: warm, no visible rashes, erythema over chest, decresed 
skin turgor 
 
Pertinent Results:
ADMISSION LABS:
___ 09:25AM BLOOD WBC-13.8* RBC-4.95 Hgb-15.0 Hct-44.4 
MCV-90 MCH-30.3 MCHC-33.8 RDW-17.3* Plt ___
___ 09:25AM BLOOD Neuts-66.3 ___ Monos-8.5 Eos-2.3 
Baso-0.4
___ 09:25AM BLOOD Glucose-151* UreaN-25* Creat-1.4* Na-140 
K-4.3 Cl-102 HCO3-25 AnGap-17
___ 09:25AM BLOOD ALT-22 AST-16 AlkPhos-52 TotBili-0.5
___ 09:25AM BLOOD Albumin-4.2 Calcium-9.9 Phos-2.9 Mg-1.8
___ 09:25AM BLOOD TSH-4.9*
___ 10:22PM BLOOD ___ pO2-220* pCO2-32* pH-7.37 
calTCO2-19* Base XS--5 Comment-GREEN TOP
___ 10:22PM BLOOD Lactate-1.6
___ 01:00PM URINE Color-Straw Appear-Clear Sp ___
___ 01:00PM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:00PM URINE RBC-0 WBC-4 Bacteri-FEW Yeast-NONE Epi-<1
___ 01:00PM URINE Mucous-RARE

DISCHARGE LABS:
___ 05:49AM BLOOD WBC-4.8 RBC-3.68* Hgb-11.1* Hct-32.2* 
MCV-87 MCH-30.1 MCHC-34.4 RDW-17.3* Plt ___
___ 05:49AM BLOOD Neuts-71* Bands-0 ___ Monos-7 Eos-1 
Baso-0 ___ Myelos-0
___ 05:49AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-1+ Burr-1+ Tear 
___
___ 05:49AM BLOOD Plt Smr-NORMAL Plt ___
___ 05:49AM BLOOD ___ PTT-31.8 ___
___ 05:49AM BLOOD Glucose-148* UreaN-12 Creat-1.0 Na-139 
K-4.3 Cl-106 HCO3-25 AnGap-12
___ 05:49AM BLOOD ALT-35 AST-33 LD(LDH)-252* AlkPhos-36 
TotBili-0.4
___ 05:49AM BLOOD Albumin-2.8* Calcium-8.2* Phos-2.7 Mg-1.9
___ 06:02AM BLOOD IgG-320*

IMAGING
CHEST (PA & LAT)Study Date of ___
No pneumonia or CHF. Known aortic pseudoaneurysm.

CT ABD & PELVIS W/O CONTRASTStudy Date of ___ 
1.  No evidence of acute pathology within the abdomen or pelvis.
2.  Extensive colonic diverticulosis without evidence of acute 
diverticulitis.
3.  3.3 cm infrarenal abdominal aortic aneurysm, increased in 
size since ___.
4.  Cholelithiasis without evidence of acute cholecystitis.

MICRO
___ 1:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         OF TWO COLONIAL MORPHOLOGIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ 5:36 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

 
Brief Hospital Course:
Ms. ___ is a ___ yo female w/ a hx of AML s/p alloSCT in 
___, in remission since, course c/b GVHD of skin, lung, and 
gut; CAD s/p 1v-CABG in ___, asthma (FEV1 40-45%), with recent 
exacerbation of lung GVHD, currently on Prednisone 20 mg PO QD 
with improvement in Sx, Afib on rivaroxiban and other issues 
presented to the ED with palpitations, nausea, diarrhea and UTI. 
Patient started on IV fluids, unasyn (given multiple allergies 
to other antibiotics) and increased her metoprolol. She sinus 
converted without intervention and her electrolytes improved 
significantly with aggressive IVF resuscitation and electrolyte 
repletion. The patient was continued on unasyn for 5 days with 
complete resolution of chills and fevers. The patient was found 
to have a IgG level less than 400 and given an infusion of IgG. 
She had a mild reaction to the IgG after completion, which 
resolved with hydrocortisone, benadryl and lasix. The patient's 
diarrhea resolved prior to discharge and all bacterial studies 
were negative. The patient was discharged home on her home 
medications with instructions to continue oral rehydration after 
discharge. The patient will follow up with Dr. ___ 
after discharge and is scheduled for a visit on ___. 

ACUTE ISSUES

# Gastroenteritis- Patient presented with symptoms of nausea, 
vomiting, and diarrhea. She had denied any fevers or chills, or 
SOB prior to coming to the hospital.  Her biggest concern was 
the palpitations. She was evaluated by Oncology and cardiology 
in the ED for her a.fib with RVR (see below) decision was made 
to admit her to medicine. In the ED CT scan was negative for 
colitis. On arrival to the floor patient continued to have loose 
stools. Stool studies were sent and showed no signs of bacterial 
infection. Rotavirus was pending at discharge. C.diff was 
negative. Given her history of GVHD there was some concern of it 
recurring however CT scan was reassuring as there was no sign of 
colitis. It was suspected that the patient was suffering from 
viral gastroenteritis, however she spiked the fever on hospital 
day 1 to 102, and was subsequently started on IV unasyn. Given 
her medical history and illness the decision was made to 
transfer her to the bone marrow transplant service. The 
patient's diarrhea improved with supportive care after multiple 
days in the hospital. After bacterial studies returned negative 
and patient finished 5 day course, Unasyn was stopped. Rotavirus 
was pending at discharge.  

#Urinary Tract Infection- Patient had a urinary analysis in the 
ED that was concerning for nitrites and a few bacteria, she did 
not have particular symptoms that were concerning. However given 
her immunosuppression urine culture was sent and was positive 
for pan-sensitive E.coli. She was empirically started on IV 
unasyn (after discussion with pharmacy and infectious disease) 
given her multiple drug allergies. She completed 5 day course of 
unasyn and given no evidence of complicated UTI was not 
transitioned to oral antibiotics. 

# Atrial fibrillation- Patient has a history of atrial 
fibrillation. In the emergency department she was found to be in 
atrial fibrillation with rapid ventricular response, likely the 
cause of her palpitations. She was evaluated by cardiology in 
the ED and her home metoprolol increased from 25mg daily to 50mg 
daily. She was hemodynamically stable apart from the vasovagal 
hypotensive episode likely due to bowel movement. Patient 
stabilized and was also continued on rivaraoxiban 20mg daily. 
Patient sinus converted spontaneously in the hospital. At time 
of discharge the patient was returned onto her home dose of 
metoprolol given RVR was likely in the setting of infection. The 
patient had no recurrent runs of RVR throughout hospitalization. 


# Hx of AML s/p BMT complicated by GVHD of lung and skin: 
Patient was continued on  prednisone 20mg daily,  acyclovir, 
azithromycin and atovaquone for prophylasxis. She was continued 
on spireva, advair and albuterol for her Hx of lung GVHD. 

#Acute on chronic CKD (baseline 1.2)- Patient presented with a 
creatinine elevated to 1.4. It was suspected to be due to 
pre-renal etiology given her diarrhea and limited PO intake. The 
patient was given IVF fluid boluses and encouraged PO intake. 
The patients creatinine down trended to 0.9. Her lisinopril was 
held in the setting of acute kidney injury and restarted on 
discharge. 

CHRONIC ISSUES

# DM2 - controlled on oral medications as outpatient, Held home 
meds and started on SSI.

#CAD with hx of STEMI: patient  was stable and continued on 
aspirin, metoprolol, and atorvastatin. Lisinopril was held in 
the setting of ___.

TRANSITIONAL ISSUES
========================
-patient will continue all home medications
-patient finished 5 day course of Unasyn for treatment of 
uncomplicated UTI
-ROTOVIRUS POSITIVE PATIENT CONTACTED 
-patient will follow up with Dr. ___ on ___
-patient will follow up with her pulmonology clinic after 
discharge
-patient was instructed to continue oral rehydration and call 
the clinic for fevers, chills, recurrent diarrhea, shortness of 
breath, severe cough
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Atovaquone Suspension 750 mg PO DAILY 
5. Lorazepam 0.5 mg PO Q4H:PRN anxiety, nausea, insomina 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. MetFORMIN (Glucophage) 500 mg PO BID 
8. Docusate Sodium 100 mg PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 
10. Famotidine 20 mg PO BID 
11. Atorvastatin 80 mg PO QPM 
12. Acyclovir 400 mg PO Q12H 
13. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
14. Azithromycin 250 mg PO Q24H 
15. Omeprazole 20 mg PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
wheezing 
18. GlipiZIDE 5 mg PO DAILY 
19. Levothyroxine Sodium 25 mcg PO DAILY 
20. Cyanocobalamin 500 mcg PO DAILY 
21. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Atovaquone Suspension 750 mg PO DAILY 
5. Azithromycin 250 mg PO 3X/WEEK (___) 
6. Cyanocobalamin 500 mcg PO DAILY 
7. Docusate Sodium 100 mg PO DAILY 
8. Famotidine 20 mg PO BID 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. Levothyroxine Sodium 25 mcg PO DAILY 
11. Lorazepam 0.5 mg PO Q4H:PRN anxiety, nausea, insomina 
12. Montelukast 10 mg PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. PredniSONE 20 mg PO DAILY 
15. Rivaroxaban 20 mg PO DAILY 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Vitamin D ___ UNIT PO DAILY 
18. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
wheezing 
19. GlipiZIDE 5 mg PO DAILY 
20. Lisinopril 2.5 mg PO DAILY 
21. MetFORMIN (Glucophage) 500 mg PO BID 
22. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Rotovirus
 UTI; Afib w/RVR; AML s/p allo BMT in ___ with skin and lung 
GVHD
SECONDARY: T2DM, CAD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ was a pleasure to take part in your care during you stay here 
at ___. You came into the hospital after experiencing multiple 
day of nausea/vomitting/diarrhea and mild fever. You were 
admitted to the hospital on the medicine service. You were 
started on antibiotics for a urinary tract infection and to 
treat a possible bacterial infection in your gut.  ON the day of 
your discharge you were found to have Rotavirus. 

You were transferred to the Oncology service for continuing care 
in the hospital. You were found to have low IgG (infection 
fighting proteins) in your blood. You were given a dose of IgG. 
You should have your blood levels of this protein checked at 
your first clinic visit. Your diarrhea, nausea and fatigue 
resolved prior to you leaving the hospital. You likely had a 
virus that caused your symptoms. You will follow up with Dr. 
___ within one week of leaving the hospital.

Thank you for allowing us to participate in your care during 
your stay. 

Sincerely, 

Your ___ Team
 
Followup Instructions:
___